### PR TITLE
[Merged by Bors] - feat: `Hom(N, M)` is Noetherian when `M` is Noetherian and `N` is finitely-generated.

### PR DESCRIPTION
**Pull request by ocfnash**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/BilinearMap.lean [hunk 1]
```diff
@@ -319,6 +320,13 @@ theorem llcomp_apply (f : Nₗ →ₗ[R] Pₗ) (g : M →ₗ[R] Nₗ) (x : M) :
 theorem llcomp_apply' (f : Nₗ →ₗ[R] Pₗ) (g : M →ₗ[R] Nₗ) : llcomp R M Nₗ Pₗ f g = f ∘ₗ g := rfl
 #align linear_map.llcomp_apply' LinearMap.llcomp_apply'
 
+lemma inj_llcomp_flip_apply_of_surj (f : M →ₗ[R] Nₗ) (h : Surjective f) :
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/BilinearMap.lean:323]:
```suggestion
lemma inj_llcomp_flip_apply_of_surj {f : M →ₗ[R] Nₗ} (h : Surjective f) :
```

**Review by riccardobrasca — COMMENTED** [review]
I am not sure we want the same thing for abelian groups (and maybe monoids), but we often duplicate everything done for modules for abelian groups.

File: Mathlib/LinearAlgebra/BilinearMap.lean [hunk 2]
```diff
@@ -319,6 +320,13 @@ theorem llcomp_apply (f : Nₗ →ₗ[R] Pₗ) (g : M →ₗ[R] Nₗ) (x : M) :
...
+    Injective <| (LinearMap.llcomp R M Nₗ Pₗ).flip f := by
+  intro g₁ g₂ hg
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/BilinearMap.lean:325]: Arguably this should just be stated as injectivity of `. ∘ₗ g`

Comment (ocfnash) [reply Mathlib/LinearAlgebra/BilinearMap.lean]: Indeed I slightly prefer this; now changed.

File: Mathlib/RingTheory/Noetherian.lean [hunk 3]
```diff
@@ -286,6 +286,23 @@ instance isNoetherian_pi' {R ι M : Type*} [Ring R] [AddCommGroup M] [Module R M
 
 end
 
+section CommRing
+
+variable (R M N : Type*) [CommRing R] [AddCommGroup M] [AddCommGroup N] [Module R M] [Module R N]
```
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/RingTheory/Noetherian.lean:291]: Indeed I was aware of this but the result cannot even be stated in today's Mathlib without commutativity because we only have an `R`-module structure on `N →ₗ[R] M` when `R` is commutative.

So I claim this is an independent concern.

File: Mathlib/RingTheory/Noetherian.lean [hunk 4]
```diff
@@ -286,6 +286,23 @@ instance isNoetherian_pi' {R ι M : Type*} [Ring R] [AddCommGroup M] [Module R M
...
+instance isNoetherian_linearMap_pi {ι : Type*} [Finite ι] : IsNoetherian R ((ι → R) →ₗ[R] M) :=
+  let _i : Fintype ι := Fintype.ofFinite ι; isNoetherian_of_linearEquiv (Module.piEquiv ι R M)
+
+instance isNoetherian_linearMap : IsNoetherian R (N →ₗ[R] M) := by
+  obtain ⟨n, f, hf⟩ := Module.Finite.exists_fin' R N
+  let g : (N →ₗ[R] M) →ₗ[R] (Fin n → R) →ₗ[R] M := (LinearMap.llcomp R (Fin n → R) N M).flip f
+  apply isNoetherian_of_injective g
+  apply LinearMap.inj_llcomp_flip_apply_of_surj
+  assumption
+
```
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/RingTheory/Noetherian.lean:303]: For emphasis, this works:
```
attribute [local instance] isNoetherian_of_isNoetherianRing_of_finite

example {R M N : Type*} [CommRing R] [IsNoetherianRing R]
    [AddCommGroup M] [AddCommGroup N] [Module R M] [Module R N]
    [Module.Finite R M] [Module.Finite R N] : IsNoetherian R (N →ₗ[R] M) :=
  inferInstance
```

File: Mathlib/RingTheory/Noetherian.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/Noetherian.lean:291]: What about [LinearMap.module](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/LinearMap.html#LinearMap.module)

[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/RingTheory/Noetherian.lean:291]: That would only work if the statement were something like `IsNoetherian R (N →ₗ[S] M)`

[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/RingTheory/Noetherian.lean:291]: It is [LinearMap.module](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/LinearMap.html#LinearMap.module) which demands commutativity, via the `SMulCommClass` argument.

You can witness this as follows:
```lean
variable {R M N : Type*} [Ring R] [AddCommGroup M] [Module R M] [AddCommGroup N] [Module R N]

-- Error: "failed to synthesize instance `SMulCommClass R R N`" (disappears if use `CommRing R`)
#check @LinearMap.module R R R M N _ _ _ _ _ _ _ _ _ _
```

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/Noetherian.lean:291]: Oh, I see. Sorry for the useless noise…

File: Mathlib/Algebra/Module/LinearMap.lean [hunk 5]
```diff
@@ -586,6 +586,12 @@ theorem cancel_left (hf : Function.Injective f) : f.comp g = f.comp g' ↔ g = g
   ⟨fun h ↦ ext fun x ↦ hf <| by rw [← comp_apply, h, comp_apply], fun h ↦ h ▸ rfl⟩
 #align linear_map.cancel_left LinearMap.cancel_left
 
+lemma inj_comp_left_of_inj (hf : Injective f) : Injective fun g : M₁ →ₛₗ[σ₁₂] M₂ ↦ f.comp g :=
+  fun _ _ ↦ (cancel_left hf).mp
+
+lemma inj_comp_right_of_surj (hg : Surjective g) : Injective fun f : M₂ →ₛₗ[σ₂₃] M₃ ↦ f.comp g :=
+  fun _ _ ↦ (cancel_right hg).mp
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/LinearMap.lean:593]: Can you prove `cancel_right` with this lemma (using `eq_iff`) instead of vice versa?

File: Mathlib/LinearAlgebra/StdBasis.lean [hunk 6]
```diff
@@ -297,6 +297,29 @@ end Module
...
+noncomputable def piEquiv : (ι → M) ≃ₗ[R] ((ι → R) →ₗ[R] M) := Basis.constr (Pi.basisFun R ι) R
+
+lemma piEquiv_apply_apply (v : ι → M) (w : ι → R) :
+    piEquiv ι R M v w = ∑ i, w i • v i := by
+  simp only [piEquiv, Basis.constr_apply_fintype, Basis.equivFun_apply]
+  congr
+
+@[simp] lemma range_piEquiv (v : ι → M) :
+    range (piEquiv ι R M v) = span R (range v) := by
+  ext; simp [mem_span_range_iff_exists_fun, piEquiv_apply_apply]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/StdBasis.lean:315]: Isn't this effectively just [`basis.constr_range`](https://leanprover-community.github.io/mathlib_docs/linear_algebra/basis.html#basis.constr_range)?

Comment (ocfnash) [reply Mathlib/LinearAlgebra/StdBasis.lean:315]: Yes except I cannot use that without doing a rather intricate dance to handle the redundant `Nonempty ι` variable which `Basis.constr_range` unfortunately demands.

File: Mathlib/Algebra/Module/LinearMap.lean (hunk 5 above)
Comment (ocfnash) [reply Mathlib/Algebra/Module/LinearMap.lean:593]: I don't see any point in this extra work.

File: Mathlib/LinearAlgebra/StdBasis.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/StdBasis.lean]: Quick fix
```
theorem lmapDomain_supported (f : α → α') (s : Set α) :
    (supported M R s).map (lmapDomain M R f) = supported M R (f '' s) := by
  classical
  cases isEmpty_or_nonempty α
  · simp [s.eq_empty_of_isEmpty]
  refine ...
```

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/StdBasis.lean]: I've pushed that change

Comment (alreadydone) [reply Mathlib/LinearAlgebra/StdBasis.lean]: Thanks! It remains to replace the proof of `range_piEquiv`.

File: Mathlib/Algebra/Module/LinearMap.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Module/LinearMap.lean]: I did the work anyway, since I was looking at the file for other reasons.

File: Mathlib/Algebra/Module/LinearMap.lean [hunk 7]
```diff
@@ -576,14 +576,22 @@ theorem comp_assoc
 
 variable {f g} {f' : M₂ →ₛₗ[σ₂₃] M₃} {g' : M₁ →ₛₗ[σ₁₂] M₂}
 
+/-- The linear map version of `Function.Surjective.injective_comp_right` -/
+lemma inj_comp_right_of_surj (hg : Surjective g) : Injective fun f : M₂ →ₛₗ[σ₂₃] M₃ ↦ f.comp g :=
+  fun _ _ h ↦ ext <| hg.forall.2 (ext_iff.1 h)
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/LinearMap.lean:581]: I added this docstring, but the name is still yours. I don't think using `_inj` and `_surj` like this is particularly standard, so perhaps:
```suggestion
/-- The linear map version of `Function.Surjective.injective_comp_right` -/
lemma injective_comp_right_of_surjective (hg : Surjective g) : Injective fun f : M₂ →ₛₗ[σ₂₃] M₃ ↦ f.comp g :=
  fun _ _ h ↦ ext <| hg.forall.2 (ext_iff.1 h)
```
or
```suggestion
/-- The linear map version of `Function.Surjective.injective_comp_right` -/
lemma _root_.Function.Surjective.injective_linearMapComp_right (hg : Surjective g) : Injective fun f : M₂ →ₛₗ[σ₂₃] M₃ ↦ f.comp g :=
  fun _ _ h ↦ ext <| hg.forall.2 (ext_iff.1 h)
```
or something in between...

File: Mathlib/LinearAlgebra/StdBasis.lean (hunk 6 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/StdBasis.lean]: Oh nice, thanks! I have now replaced the proof of `range_piEquiv`.

File: Mathlib/Algebra/Module/LinearMap.lean (hunk 7 above)
Comment (ocfnash) [reply Mathlib/Algebra/Module/LinearMap.lean]: Yeah I was on the fence about the naming. I've renamed with your (second) suggestion.

File: Mathlib/Algebra/Module/LinearMap.lean (hunk 5 above)
Comment (ocfnash) [reply Mathlib/Algebra/Module/LinearMap.lean]: OK!

File: Mathlib/Algebra/Module/LinearMap.lean (hunk 7 above)
Comment (ocfnash) [reply Mathlib/Algebra/Module/LinearMap.lean]: Thanks!

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
